US07414063B2
Preparation of (4-bromo-phenylamino)-acetic acid methyl ester
Potassium carbonate (2.41 g, 17.4 mmol) is added to a stirred solution of 4-bromo-aniline (2.00 g, 11.6 mmol) and methyl bromoacetate (1.78 g, 11.6 mmol) in dry DMF (20 mL) at ambient temperature. The mixture is heated at 100° C. for 1 hour. At ambient temperature ethyl acetate (60 mL) and water (60 mL) are added to the mixture. The organic layer is separated, washed with half-saturated brine, dried, filtered and concentrated. After MPLC separation on silica (gradient 0-15% ethyl acetate in hexane), 0.94 g (33% yield) of the title compound is obtained. 1H NMR (DMSO-d6): δ3.62 (s, 3H), 3.87 (d, J=6.4 Hz, 2H), 6.22 (t, J=6.4 Hz, 1H), 6.49 (d, J=8.8 Hz, 2H), 7.19 (d, J=8.8 Hz, 2H).

reactant | Potassium carbonate | 17.4 mmol, 2.41 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-bromo-aniline | 11.6 mmol, 2.00 g | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | methyl bromoacetate | 11.6 mmol, 1.78 g | BrCC(=O)OC | C3H5BrO2
reactant | ethyl acetate | 60 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | 60 mL | O | H2O
product | (4-bromo-phenylamino)-acetic acid methyl ester | 0.94 g, 33% yield | COC(CNC1=CC=C(C=C1)Br)=O | C9H10BrNO2
